US04122183
2-(N-Butyl-isobutyramido)-4-phenyloxazole
2-(N-butylamino)-4-phenyloxazole was acylated with isobutyryl chloride as described in Example 9. An almost colourless oil was obtained on distillation. Wt. = 4.9 g., b.p. 140° C (air-bath temperature)/1 mm., 80%.

reactant | 2-(N-butylamino)-4-phenyloxazole | C(CCC)NC=1OC=C(N1)C1=CC=CC=C1 | C13H16N2O
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | 2-(N-Butyl-isobutyramido)-4-phenyloxazole | C(CCC)N(C(C(C)C)=O)C=1OC=C(N1)C1=CC=CC=C1 | C17H22N2O2
